US05821261
Step E: (4R)-4-(Guanidinomethyl)-L-Proline Methyl Ester Dihydrochloride
(4R)-1-(tert-Butyloxycarbonyl)-4-[N,N'-bis(tert-butyloxy-carbonyl)guanidinomethyl]-L-proline methyl ester (14 mg, 0.028 mmol) was treated with 4N HCl in dioxane (1 mL) at room temperature overnight. The reaction mixture was evaporated under diminished pressure, coevaporated several times with diethyl ether and several times with methanol. The product was dried under high vacuum; yield 7.6 mg (100%). Mass spectrum: m/z 201 (M+1); 400 MHz 1H NMR (CD3OD): δ2.19 (m, 1H); 2.42 (m, 1H); 2.68 (m, 1H); 3.11 (dd, 1H); 3.64 (dd, 1H); 3.87 (s, 3H); 4.60 (dd, 1H).

reactant | (4R)-1-(tert-Butyloxycarbonyl)-4-[N,N'-bis(tert-butyloxy-carbonyl)guanidinomethyl]-L-proline methyl ester | 0.028 mmol, 14 mg | COC([C@H]1N(C[C@@H](C1)CN(C(=NC(=O)OC(C)(C)C)N)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C23H40N4O8
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (4R)-4-(Guanidinomethyl)-L-Proline Methyl Ester Dihydrochloride | Cl.Cl.COC([C@H]1NC[C@@H](C1)CNC(=N)N)=O | InChI=1S/C8H16N4O2.2ClH/c1-14-7(13)6-2-5(3-11-6)4-12-8(9)10;;/h5-6,11H,2-4H2,1H3,(H4,9,10,12);2*1H/t5-,6+;;/m1../s1
